US06900215B2
5′-(7-Acetylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile (80 mg, 0.22 mmol) and pyridinium tribromide (110 mg, 0.34 mmol) in chloroform (5 ml) was stirred at 50° C. for 3 h. Thioacetamide (33 mg, 0.44 mmol) was then added and the reaction stirred at 50° C. for 16 h. The resulting mixture was partitioned between dichloromethane and saturated aqueous sodium hydrogencarbonate solution. The organic extracts were washed with brine, dried over anhydrous magnesium sulfate, filtered and evaporated to dryness. The residue was purified by preparative thin-layer chromatography eluting with dichloromethane containing 5% methanol and 1% conc. ammonia to give a foam. Trituration with diethyl ether afforded 2′-fluoro-5′-[7-(2-methylthiazol-5-yl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile as a yellow solid (10 mg, 11%): δH (400 MHz, DMSO) 2.75 (3H, s), 7.56-7.68 (5H, m), 7.81-7.92 (3H, m), 7.98-8.05 (2H, m), 8.40 (1H, s), 9.12 (1H, s); m/z (ES+) 412 (M++H).

reactant | 5′-(7-Acetylimidazo[1,2-α]pyrimidin-3-yl)-2′-fluorobiphenyl-2-carbonitrile | 0.22 mmol, 80 mg | C(C)(=O)C1=NC=2N(C=C1)C(=CN2)C=2C=CC(=C(C2)C=2C(=CC=CC2)C#N)F | C21H13FN4O
reactant | pyridinium tribromide | 0.34 mmol, 110 mg | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | Thioacetamide | 0.44 mmol, 33 mg | C(C)(=S)N | C2H5NS
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2′-fluoro-5′-[7-(2-methylthiazol-5-yl)imidazo[1,2-α]pyrimidin-3-yl]biphenyl-2-carbonitrile | 10 mg, 11% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C2=CN=C(S2)C)C=2C(=CC=CC2)C#N | C23H14FN5S
